US08048862B2
Preparation of 2-phenyl-4-chloro-7-methoxy-quinoline
2-phenyl-4-hydroxy-7-methoxy-quinoline (2.73 g, 10.9 mmol., 1 eq) was suspended in neat phosphorus oxychloride (30 mL). The reaction mixture was heated under reflux. After 2 h, LCMS analysis showed full consumption of the starting material. The reaction mixture was left to cool to ambient temperature and the solvent removed under vacuum. The residue was partitioned between ethyl acetate (100 mL) and 2M aqueous sodium hydroxide solution (80 mL). The mixture was stirred at ambient temperature for a further 10 min, and then the two layers were separated. The organic phase was washed with water (2×50 mL) and saturated aqueous sodium chloride solution (50 mL), dried over sodium sulfate, filtered and the solvent removed under vacuum. The obtained beige solid was further dried under high vacuum for 2 hours to give 2.66 g (91%) of the title compound. 1H NMR (250 MHz, DMSO-d6) δ ppm 8.25-8.35 (m, 2H), 8.21 (s, 1 H), 8.09 (d, J=9.14 Hz, 1 H), 7.47-7.61 (m, 4H), 7.38 (dd, J=2.55, 9.18 Hz, 1 H), 3.97 (s, 3 H). LC-MS: purity 100% (UV), tR 2.58 min, m/z [M+1]+ 270.00.

reactant | 2-phenyl-4-hydroxy-7-methoxy-quinoline | 10.9 mmol, 2.73 g, 1 eq | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C(=C1)O)OC | C16H13NO2
reactant | phosphorus oxychloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-phenyl-4-chloro-7-methoxy-quinoline | 2.66 g, 91% | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C(=C1)Cl)OC | C16H12ClNO
